US08044213B2
To a mixture of 0.048 g (0.1 mmole) of 4-(3-chloro-phenyl)-2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid, 0.046 g (0.12 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium, 3-oxide, hexafluorophosphate(1-) (1:1), 0.008 g (0.15 mmole) of ammonium chloride and 1 mL of dimethylformamide was added 0.052 mL of diisopropylethylamine. The mixture was stirred at ambient temperature for 1 hour, filtered and then purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 10:90-90:10) to give 0.027 g of 4-(3-chloro-phenyl)-2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.2) as a white solid. MH+/Z=467

reactant | 4-(3-chloro-phenyl)-2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid | 0.1 mmole, 0.048 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C=C2)CN2CCN(CC2)C | C23H22ClN5O2S
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium | 0.12 mmole, 0.046 g | CN(C)C(=[N+]1N=NC2=NC=CC=C21)N(C)C
reactant | hexafluorophosphate(1-) | F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 0.15 mmole, 0.008 g | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.052 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.027 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)CN2CCN(CC2)C | C23H23ClN6OS
